US04902700
Synthesis of 2-[trans-3-(2-carboxyanilino)styryl]benzothiazole (compound No. 425)
To 10 ml of isoamyl alcohol were added 504 mg of 2-(trans-3-aminostyryl)benzothiazole, 311 mg of 2-chlorobenzoic acid, 290 mg of potassium carbonate, 1 mg of iodine and 15 mg of copper powder, and the mixture was refluxed for 6 hours. The solvent was evaporated under reduced pressure and the residue was extracted with ethyl acetate. The crude product after evaporation of the solvent was purified through silica gel column chromatography by use of ethyl acetate-toluene to obtain 83 mg (yield 11%) of the title compound.

reactant | 2-(trans-3-aminostyryl)benzothiazole | 504 mg | NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C15H12N2S
reactant | 2-chlorobenzoic acid | 311 mg | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | potassium carbonate | 290 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 15 mg | [Cu] | Cu
catalyst | iodine | 1 mg | II | I2
solvent | isoamyl alcohol | 10 ml | C(CC(C)C)O | C5H12O
product | 2-[trans-3-(2-carboxyanilino)styryl]benzothiazole | 83 mg, yield 11% | C(=O)(O)C1=C(NC=2C=C(/C=C/C=3SC4=C(N3)C=CC=C4)C=CC2)C=CC=C1 | C22H16N2O2S
